2194-03-26 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - family meeting, DNR/DNI
   - weaned down oxygen requirement
   Allergies:
   Belladonna Alkaloids
   itching; swolle
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-3-26**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.7
C (96.2
   HR: 75 (69 - 89) bpm
   BP: 100/27(43) {74/21(37) - 115/56(67)} mmHg
   RR: 25 (23 - 36) insp/min
   SpO2: 97%
                  Total In:
                                                                  1,250 mL
                  PO:
                  TF:
   IVF:
                                                                    750 mL
   Blood products:
   Total out:
                                                                    540 mL
                                                                    230 mL
   Urine:
                                                                    540 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    710 mL
                                                                   -230 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   General: somnolent, responds to voice
   HEENT: PERRL, NC/AT, conjunctiva with slight pallor.
   Neck: difficult to appreciate JVD
   Lungs: bilaterla crackles, currently L>R
   Cardiac: RRR, S1 S2, [**3-7**] SM best at LSB
   Abdomen: soft, +BS
   Extrem: [**3-4**]+ gross bilat edema;  Warm, well perfused.
   Labs / Radiology
   95 K/uL
   8.8 g/dL
   111 mg/dL
   2.8 mg/dL
   28 mEq/L
   5.6 mEq/L
   41 mg/dL
   99 mEq/L
   136 mEq/L
   27.9 %
   17.1 K/uL
        [image002.jpg]
                             [**2194-3-26**]  04:00 AM
   WBC
   17.1
   Hct
   27.9
   Plt
   95
   Cr
   2.8
   Glucose
   111
   Other labs: PT / PTT / INR:12.6/28.5/1.1, Differential-Neuts:91.0 %,
   Lymph:5.6 %, Mono:2.7 %, Eos:0.6 %, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL,
   PO4:6.4 mg/dL
   Assessment and Plan
   81 F with hypercarbic respiratory failure, and hypotension in the
   setting of pna and underlying lung disease and CHF.
   .
   # Hypoxic/hypercapnic respiratory failure: Acute on chronic
   predominantly hypercarbic with good oxygenation currently, most likely
   percipitated by pna and ubtitration of oxygen on the floor over night
   (O2Sat 100%) leading to CO2 retension. No CNS active meds, doubt muscle
   weakness to be the cause as strong respiratory rate and obviouse deep
   inspiration on exam. No history of COPD but given chronicity and
   smoking Hx as well as wheezes, this could have remained undiagnosed
   - cont pna treatment with vanco zosyn, improving, no need to double
   coverage GNR
   - o2 to 89-93%
   - standing nebs
   - non invasive pressure ventilation if worsening tachypnea, or CO2
   retension, although weaning down O2 to 4L overnight
   - DNI
   .
   # Hypotension: hx of diarrhea, current pna, worsening renal function,
   most likely prerenal due to volume los, doubt flourid sepsis
   cardiogenic
   - fluid bolus prn, will give trials of 250 cc boluses to check
   - possible transfusion as MDS
   - no need for pressors currently but if no response to fluid will need
   line and sepsis treatment, also given CHF low treshold for central line
   to also asses cvp
   .
   # Pneumonia:  Patcont [**Doctor Last Name **]/Zosyn. follow up culture, doubt current need
   for double coverage,
   - repeat CXRs
   - continue abx
   - fluid boluses PRN
   .
   # Hyperkalemia
 5.6 this am, likely from renal failure,
   - pt refusing kayexcelate, daughter consulted and also refused
   - talked about dangers of not treating hyperkalemia but still refusing.
   .
   # distolic CHF: mostly right ventricular failure per echo: good
   systolic function. BNP on admission significantly improved to past
   ruling out exacerbation, likely fluid depleted on exam.
   - gentle fluid resuscitation
   .
   # Altered mental status:  somnolent but arousable. not focal but
   difficult to assess as poor cooperation language barrier.
   most likely due to hypercarbia, with decrease co2 expect improvment
   - improving today, more awake and alert
   # DVT and PE: Patient has a history of DVT/PE and is on lovenox
   at home. doubt massive pe to be the cause of hypotension.
   -cont lovenox, with renal failure will check factor 10a tomorrow at
   trough to get true level
   - pharmacy helping with dosing
   .
   # CRI: acute on chronic. Prerenal vs ATn in the setting of hypotension
   - continue fluid boluses
   - renal lytes
   - follow UOP
   - renaly dose meds
   .
   # MDS:  Followed by Dr. [**Last Name (STitle) **] of [**Hospital1 54**].  Has received multiple
   blood transfusions in past. Current HCT drop still at range of
   baseline, no source of bleed, although need careful monitoring as on
   lovenox with renal impairment
   - may need transfusion
   - recheck in pm
   .
   # Code: DNR/ DNI per daughter  yesterday after family meeting
   # FEN:  IVF boluse, replete electrolytes, regular diet
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: peripherals
   .
   # Code: presumed full
   .
   # Communication: Patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2194-3-25**] 12:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2194-03-27 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2194-3-26**] 11:30 PM
   Stool specimen for Cdiff
   [**3-26**] Events:
   - cont to have mod low BPs, boluses total of 1 L
   - did not get PICC, has tenuous PIV
   - K of 5.6 x2, daughter refused [**Name2 (NI) 8223**] for the patient; had
   discussion about risks of not treating hyperkalemia, daughter aware and
   still rather hold off until K higher
   - PM labs show worsening ARF
   - O2 requirement steady at 4 L NC
   Allergies:
   Belladonna Alkaloids
   itching; swolle
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2194-3-26**] 11:10 PM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2194-3-26**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-3-27**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.2
   HR: 67 (62 - 96) bpm
   BP: 88/32(44) {75/20(41) - 116/48(62)} mmHg
   RR: 21 (17 - 33) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
                  Total In:
                                                                  1,527 mL
                                                                    240 mL
   PO:
                                                                    240 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,287 mL
   Blood products:
   Total out:
                                                                    910 mL
                                                                    270 mL
   Urine:
                                                                    910 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    617 mL
                                                                    -30 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General: somnolent, responds to voice
   HEENT: PERRL, NC/AT, conjunctiva with slight pallor.
   Neck: difficult to appreciate JVD
   Lungs: bilaterla crackles, currently L>R
   Cardiac: RRR, S1 S2, [**3-7**] SM best at LSB
   Abdomen: soft, +BS
   Extrem: [**3-4**]+ gross bilat edema;  Warm, well perfused.
   Labs / Radiology
   98 K/uL
   9.0 g/dL
   118 mg/dL
   3.0 mg/dL
   23 mEq/L
   5.6 mEq/L
   40 mg/dL
   100 mEq/L
   135 mEq/L
   28.4 %
   11.0 K/uL
        [image002.jpg]
                             [**2194-3-26**]  04:00 AM
                             [**2194-3-26**]  07:05 PM
                             [**2194-3-27**]  05:30 AM
   WBC
   17.1
   13.1
   11.0
   Hct
   27.9
   27.5
   28.4
   Plt
   95
   77
   98
   Cr
   2.8
   3.1
   3.0
   Glucose
   111
   177
   118
   Other labs: PT / PTT / INR:12.0/30.8/1.0, Differential-Neuts:91.0 %,
   Lymph:5.6 %, Mono:2.7 %, Eos:0.6 %, Ca++:7.2 mg/dL, Mg++:1.8 mg/dL,
   PO4:5.9 mg/dL
   Assessment and Plan
   81 F with hypercarbic respiratory failure, and hypotension in the
   setting of pna and underlying lung disease and CHF.
   .
   # Hypoxic/hypercapnic respiratory failure: Acute on chronic
   predominantly hypercarbic with good oxygenation currently, most likely
   percipitated by pna and ubtitration of oxygen on the floor over night
   (O2Sat 100%) leading to CO2 retension. No CNS active meds, doubt muscle
   weakness to be the cause as strong respiratory rate and obviouse deep
   inspiration on exam. No history of COPD but given chronicity and
   smoking Hx as well as wheezes, this could have remained undiagnosed
   - cont pna treatment with vanco zosyn, improving, no need to double
   coverage GNR
   - o2 to 89-93%
   - standing nebs
   - non invasive pressure ventilation if worsening tachypnea, or CO2
   retension, although weaning down O2 to 4L overnight
   - DNI
   .
   # Hypotension: hx of diarrhea, current pna, worsening renal function,
   most likely prerenal due to volume los, doubt flourid sepsis
   cardiogenic
   - fluid bolus prn, will give trials of 250 cc boluses to check
   - possible transfusion as MDS
   - no need for pressors currently but if no response to fluid will need
   line and sepsis treatment, also given CHF low treshold for central line
   to also asses cvp
   .
   # Pneumonia:  Patcont [**Doctor Last Name **]/Zosyn. follow up culture, doubt current need
   for double coverage,
   - repeat CXRs
   - continue abx
   - fluid boluses PRN
   .
   # Hyperkalemia
 5.6 this am, likely from renal failure,
   - pt refusing [**Doctor Last Name 8223**], daughter consulted and also refused
   - talked about dangers of not treating hyperkalemia but still refusing.
   .
   # distolic CHF: mostly right ventricular failure per echo: good
   systolic function. BNP on admission significantly improved to past
   ruling out exacerbation, likely fluid depleted on exam.
   - gentle fluid resuscitation
   .
   # Altered mental status:  somnolent but arousable. not focal but
   difficult to assess as poor cooperation language barrier.
   most likely due to hypercarbia, with decrease co2 expect improvment
   - improving today, more awake and alert
   # DVT and PE: Patient has a history of DVT/PE and is on lovenox
   at home. doubt massive pe to be the cause of hypotension.
   -cont lovenox, with renal failure will check factor 10a tomorrow at
   trough to get true level
   - pharmacy helping with dosing
   .
   # CRI: acute on chronic. Prerenal vs ATn in the setting of hypotension
   - continue fluid boluses
   - renal lytes
   - follow UOP
   - renaly dose meds
   .
   # MDS:  Followed by Dr. [**Last Name (STitle) **] of [**Hospital1 54**].  Has received multiple
   blood transfusions in past. Current HCT drop still at range of
   baseline, no source of bleed, although need careful monitoring as on
   lovenox with renal impairment
   - may need transfusion
   - recheck in pm
   .
   # Code: DNR/ DNI per daughter  yesterday after family meeting
   # FEN:  IVF boluse, replete electrolytes, regular diet
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: peripherals
   .
   # Code: presumed full
   .
   # Communication: Patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2194-3-25**] 12:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: